US07691877B2
4-Amino-6-(4-ethyl-oxazol-2-yl)-1-(6-methyl-pyridin-3-ylmethyl)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one
[2-amino-6-(4-ethyl-oxazol-2-yl)-3-nitro-pyridin-4-yl]-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester (74 mg) was dissolved in acetic acid (2 ml) and zinc powder (113 mg, Aldrich, 99%) was added to the reaction. The mixture was left to stir at room temperature under nitrogen for 16 hours. The reaction mixture was filtered directly onto a cation exchange cartridge (Bakerbond SCX, sulphonic acid bonded-phase, 1 g). The SCX cartridge was washed with methanol (2×4 ml) to remove impurities, then the product released with ammonia in methanol (2 M, 4 ml). The desired fractions were combined and evaporated to an off-white solid that was triturated with isopropanol, filtered, and then washed with isopropanol, providing the title compound (32 mg) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.16 (t, J=7.42 Hz, 3 H) 2.40 (s, 3 H) 2.44-2.56 (m, 2 H) 5.04 (s, 2 H) 5.98 (s, 2 H) 7.19 (d, J=8.02 Hz, 1 H) 7.23 (s, 1 H) 7.54 (dd, J=8.02, 2.34 Hz, 1 H) 7.79 (s, 1 H) 8.45 (d, J=2.34 Hz, 1 H) 10.65 (s, 1 H), LCMS Rt=1.73 m/z 351 [MH]+

reactant | [2-amino-6-(4-ethyl-oxazol-2-yl)-3-nitro-pyridin-4-yl]-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | 74 mg | C(C)OC(N(CC=1C=NC(=CC1)C)C1=C(C(=NC(=C1)C=1OC=C(N1)CC)N)[N+](=O)[O-])=O | C20H22N6O5
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 113 mg | [Zn] | Zn
product | 4-Amino-6-(4-ethyl-oxazol-2-yl)-1-(6-methyl-pyridin-3-ylmethyl)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | 32 mg | NC1=NC(=CC2=C1NC(N2CC=2C=NC(=CC2)C)=O)C=2OC=C(N2)CC | C18H18N6O2
